US08440689B2
Methyl 2-chloro-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate
A mixture of methyl 2,4-dichloro-6-methylpyrimidine-5-carboxylate (940 mg, 4.25 mmol), m-toluidine (0.461 mL, 4.25 mmol) and N-ethyldiisopropylamine (1.481 mL, 8.51 mmol) in CH3CN (30 mL) was heated under reflux for 3 h. The mixture was diluted with EtOAc, and was washed with brine and water. The organic extract was dried and concentrated under reduced pressure to give the title compound as a light yellow solid (1.2 g, 97%). [M+H] calc'd for C14H14N3ClO2, 292. found, 292.

reactant | methyl 2,4-dichloro-6-methylpyrimidine-5-carboxylate | 4.25 mmol, 940 mg | ClC1=NC(=C(C(=N1)Cl)C(=O)OC)C | C7H6Cl2N2O2
reactant | m-toluidine | 4.25 mmol, 0.461 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | N-ethyldiisopropylamine | 8.51 mmol, 1.481 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-chloro-4-methyl-6-(m-tolylamino)pyrimidine-5-carboxylate | 1.2 g, 97% | ClC1=NC(=C(C(=N1)C)C(=O)OC)NC=1C=C(C=CC1)C | C14H14ClN3O2
